US08258130B2
A solution of 1-(5-fluoro-1H-indol-3-yl)-2-methyl-propan-2-ol (207 mg, 1 mmol) in DMF (10 mL) is cooled to 0° C., treated with NaH (600 mg, 15 mmol, 60% in mineral oil) and stirred for 30 min. H2NOSO3H (565 mg, 5 mmol) is added portion wise, and the mixture is warmed to rt over 2 h. The mixture is diluted with EtOAc (100 mL), quenched with water, extracted with EtOAc, dried (Na2SO4), filtered and concentrated in vacuo to afford 1-(1-amino-5-fluoroindol-3-yl)-2-methyl-propan-2-ol, which is used in the next step without further purification.

reactant | 1-(5-fluoro-1H-indol-3-yl)-2-methyl-propan-2-ol | 1 mmol, 207 mg | FC=1C=C2C(=CNC2=CC1)CC(C)(O)C | C12H14FNO
reactant | NaH | 15 mmol, 600 mg | [H-].[Na+]
reactant | H2NOSO3H | 5 mmol, 565 mg | NOS(=O)(=O)O | H3NO4S
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 100 mL | CCOC(=O)C | C4H8O2
product | 1-(1-amino-5-fluoroindol-3-yl)-2-methyl-propan-2-ol | NN1C=C(C2=CC(=CC=C12)F)CC(C)(O)C | C12H15FN2O
